US07022259B2
Example 10 was performed as Example 1 except for substitution of 2.7 g of cinchonidine, 1.5 g of 4-n-Propyl-cyclohexanecarboxylic acid, 2.1 g of N,N′-Dicyclohexyl carbodimide (DCC), 1.2 g of N,N-(dimethyl amino)-pyridine (DMAP) and 80 ml of dichloromethane into a round-bottom flask. After filtering and condensing, the residue was subjected to recrystallization from methanol, giving (R)-1-(4-quinolyl)-1-[(2S,4S,5R)-5-vinyl-1-azabicyclo[2.2.2]oct-2-yl]methyl 4-propyl-1-cyclohexanecarboxylate, as a white solid with a chemical purity 91.31%. The optical properties of the resulting compound were tested as in Example 1. The compound exhibited a specific rotation [α] of +5.52 and a helical pitch P of 3.1 μm, with helical twisting power of 32.2 μm−1.

reactant | cinchonidine | 2.7 g | C=C[C@H]1CN2CC[C@H]1C[C@H]2[C@@H](C=3C=CN=C4C3C=CC=C4)O | C19H22N2O
reactant | 4-n-Propyl-cyclohexanecarboxylic acid | 1.5 g | C(CC)C1CCC(CC1)C(=O)O | C10H18O2
reactant | N,N′-Dicyclohexyl carbodimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (R)-1-(4-quinolyl)-1-[(2S,4S,5R)-5-vinyl-1-azabicyclo[2.2.2]oct-2-yl]methyl 4-propyl-1-cyclohexanecarboxylate | C(CC)C1CCC(CC1)C(=O)O[C@@H]([C@H]1N2C[C@@H]([C@H](C1)CC2)C=C)C2=CC=NC1=CC=CC=C21 | C29H38N2O2
